US09399636B2
Step 1: tert-butyl 4-(2-chloro-6-(3,3-difluoropyrrolidin-1-yl)pyridin-4-yl)piperidine-1-carboxylate
A solution of 3,3-difluoropyridine hydrochloride (533 mg, 3.72 mmol, 3.18 equiv), tert-butyl 4-(2,6-dichloropyridin-4-yl)piperidine-1-carboxylate (1.00 g, 1.17 mmol, 1 equiv), and N,N-diisopropylethylamine (1.23 mL, 7.03 mmol, 6.00 equiv) in N-methylpyrrolidinone (2.3 mL) was heated at 130° C. in the microwave (CEM) for 1.5 h. The reaction mixture was diluted with ethyl acetate (50 mL), and the resulting solution was washed with saturated aqueous ammonium chloride solution (2×20 mL). The aqueous washes were extracted with ethyl acetate (25 mL). The combined organic was washed with water (25 mL), dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (4:1 heptane/ethyl acetate) provided product as a clear oil (220 mg, 47% yield). 1H NMR (400 MHz, CDCl3): 6.51 (s, 1H), 6.03 (s, 1H), 4.25 (m, 2H), 3.83 (t, J=13.1 Hz, 2H), 3.67 (t, J=7.3 Hz, 2H), 2.77 (m, 2H), 2.42-2.58 (m, 3H), 1.78 (m, 2H), 1.53-1.62 (m, 2H), 1.48 (s, 9H).

reactant | 3,3-difluoropyridine hydrochloride | 3.72 mmol, 533 mg, 3.18 equiv | Cl.FC1(CN=CC=C1)F
reactant | tert-butyl 4-(2,6-dichloropyridin-4-yl)piperidine-1-carboxylate | 1.17 mmol, 1.00 g, 1 equiv | ClC1=NC(=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C)Cl | C15H20Cl2N2O2
reactant | N,N-diisopropylethylamine | 7.03 mmol, 1.23 mL, 6.00 equiv | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methylpyrrolidinone | 2.3 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(2-chloro-6-(3,3-difluoropyrrolidin-1-yl)pyridin-4-yl)piperidine-1-carboxylate | 220 mg, 47% yield | ClC1=NC(=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C)N1CC(CC1)(F)F | C19H26ClF2N3O2
